US04344948
1-[2-(3,4-Methylenedioxyphenyl)-2-hydroxyethyl]-4-[3,4-dihydro-2(1H)-quinazolinon-1-yl]-piperidine
In this example, 2.70 g of 1-(3,4-methylenedioxybenzoylmethyl)-4-[3,4-dihydro-2(1H)-quinazolinon-1-yl]-piperidine and 150 ml of methanol are mixed and stirred under ice-cooling. Then, 2.0 g of sodium borohydride is added to the stirred mixture over a period of one hour. Subsequently, the mixture is brought back to room temperature and stirred for 3 hours at room temperature and the reaction solution is concentrated. The resultant residue is mixed with 50 ml of water and the mixture is extracted with ethyl acetate (100 ml×2 and 50 ml×1). The extract is washed with water, dried and concentrated. The resultant viscous residue is mixed with 5 ml of methanol. The crystals deposited are separated by filtration, washed with methanol and dried to obtain 2.05 g of a crude product. The crude product is recrystallized from hot ethanol to obtain 1.74 g of the desired product.

reactant | 1-(3,4-methylenedioxybenzoylmethyl)-4-[3,4-dihydro-2(1H)-quinazolinon-1-yl]-piperidine | 2.70 g | C1OC=2C=C(C(=O)CN3CCC(CC3)N3C(NCC4=CC=CC=C34)=O)C=CC2O1 | C22H23N3O4
reactant | sodium borohydride | 2.0 g | [BH4-].[Na+]
solvent | methanol | 150 ml | CO | CH4O
product | 1-[2-(3,4-Methylenedioxyphenyl)-2-hydroxyethyl]-4-[3,4-dihydro-2(1H)-quinazolinon-1-yl]-piperidine | 1.74 g | C1OC=2C=C(C=CC2O1)C(CN1CCC(CC1)N1C(NCC2=CC=CC=C12)=O)O | C22H25N3O4
